US04377580
A mixture of 4-aminoquinazoline (2.9 g) and 2,2-dimethyl-5-ethoxymethylene-1,3-dioxane-4,6-dione (4.46 g) in N,N-dimethylformamide (20 ml) was stirred for 1 hour and 10 minutes at 110° C. The resultant mixture was cooled to ambient temperature and allowed to stand overnight to give crystals, which were separated by filtration and washed with a mixture of ethyl acetate and hexane to give crystalline 2,2-dimethyl-5-[(4-quinazolinyl)amino]methylene-1,3-dioxane-4,6-dione (4.1 g).

reactant | 4-aminoquinazoline | 2.9 g | NC1=NC=NC2=CC=CC=C12 | C8H7N3
reactant | 2,2-dimethyl-5-ethoxymethylene-1,3-dioxane-4,6-dione | 4.46 g | CC1(OC(C(C(O1)=O)=COCC)=O)C | C9H12O5
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2,2-dimethyl-5-[(4-quinazolinyl)amino]methylene-1,3-dioxane-4,6-dione | 4.1 g | CC1(OC(C(C(O1)=O)=CNC1=NC=NC2=CC=CC=C12)=O)C | C15H13N3O4
